US06329389B1
Diethyl 2-(2,4-dinitrobenzylidene)malonate
The mixture of 2,4-dinitrobenzaldehyde (25 g), diethylmalonate (20.3 g), potassium hydrogencarbonate (19.1 g), and acetic anhydride (50 ml) was stirred at 110° C. under nitrogen atmosphere for one hour. The reaction mixture was cooled, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution and then dried and concentrated. The residue was purified by alumina column chromatography (eluent: hexane/ethyl acetate=4: 1) to obtain the entitled compound (24 g).

reactant | 2,4-dinitrobenzaldehyde | 25 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O5
reactant | diethylmalonate | 20.3 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | potassium hydrogencarbonate | 19.1 g | C(O)([O-])=O.[K+]
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | Diethyl 2-(2,4-dinitrobenzylidene)malonate | 24 g | [N+](=O)([O-])C1=C(C=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C14H14N2O8
